US05081169
Example 5 demonstrates the preparation of pentaerythritol tetrakis (n-hexadecylthiopropyl)ether.
The procedure used was identical to that set forth in Example 4, except that 107 g of hexadecyl mercaptan (0.417 moles) was reacted with 29.64 g of pure pentaerythritol tetraallyl ether (0.1 moles). The crude product was recrystallized three times in 300 ml of hexane yielding 57 g of white solid having a melting point 55°-57° C. The elemental analysis found: C-73.4%, H-11.9%, S-10.0%, calculated for C88H164S4 (theoretical C-73.12%, H-12.4%, S-9.64% and O-4.81%).

reactant | hexadecyl mercaptan | 0.417 moles, 107 g | C(CCCCCCCCCCCCCCC)S | C16H34S
reactant | pentaerythritol tetraallyl ether | 0.1 moles, 29.64 g | C(C=C)OCC(COCC=C)(COCC=C)COCC=C | C17H28O4
product | pentaerythritol tetrakis (n-hexadecylthiopropyl)ether | C(CCCCCCCCCCCCCCC)SCCCOCC(COCCCSCCCCCCCCCCCCCCCC)(COCCCSCCCCCCCCCCCCCCCC)COCCCSCCCCCCCCCCCCCCCC | C81H164O4S4
